US07442813B2
[4(R)-(2-Amino-6-chloro-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol (1.2 kg, 4.5 moles), ethanol (15.2 L) and cyclopropylamine (756 g) were refluxed under nitrogen for 16 hours. The reaction was monitored for completion by HPLC. Once completed the reaction mixture was hot-filtered and allowed to cool to 0° C. slowly. The solids were filtered and subsequently recrystallized from ethanol to give [4(R)-(2-Amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol (1.0 kg, 77%).

reactant | [4(R)-(2-Amino-6-chloro-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol | 4.5 moles, 1.2 kg | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)CO)Cl | C9H10ClN5O3
reactant | cyclopropylamine | 756 g | C1(CC1)N | C3H7N
solvent | ethanol | 15.2 L | C(C)O | C2H6O
product | [4(R)-(2-Amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol | 1.0 kg, 77% | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)CO)NC1CC1 | C12H16N6O3
